US07559970B2
50 g of Ag nanoparticles produced above and 100 g of butyl amine was mixed and incubated in toluene at 80° C. for 1 hour so that a part of fatty acid is substituted by butyl amine. Next, 250 g of silver nanoparticles capped with 2 dispersant of oleic acid and dodecyl amine were produced by adding 100 g of dodecyl amine to the mixture and incubating at 120° C. for 1 hour so that butyl amine is re-substituted.

reactant | butyl amine | 100 g | C(CCC)N | C4H11N
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | silver | 250 g | [Ag] | Ag
product | dodecyl amine | C(CCCCCCCCCCC)N | C12H27N
